*==========================================================
* UC3842B
* ON Semiconductor
* PWM Controller
*
* This model was developed for ON Semiconductor by:
* AEI Systems, LLC
* 5777 W. Century Blvd. Suite 876
* Los Angeles, California 90045
* Copyright 2002, all rights reserved.
*
* This model is subject to change without notice.
* Users may not directly or indirectly re-sell or 
* re-distribute this model. This model may not 
* be used, modified, or altered 
* without the consent of ON Semiconductor. 
*
* For more information regarding modeling services,
* model libraries and simulation products, please
* call AEi Systems at (310) 863-8034, or contact 
* AEi by email: info@aeng.com. http://www.AENG.com
*
* Revision: 1.0
*==========================================================
*
* PSpice translation by Christophe Basso, christophe.basso@onsemi.com
*
.SUBCKT UC3842B  3    14   15   1     18    4   20   2  
*              E/A  FDBK  IS  RT/CT  GND  OUT  VC  VREF
****OSCILLATOR*****
XTOF1 8 18 1 18 SWhyste params: RON=.01 ROFF=1MEG VT=2.05 VH=.8
GBDISCH 1 18 Value = { IF ( V(8,18) < 2.5 & V(13,18) > 2.5, 8.3M, 0 ) }
RPULL 8 2 100K
****UVLO***********
XTOF2 20 19 20 18 SWhyste params: RON=.01 ROFF=1MEG VT=13 VH=3
RUVLO 19 18 1MEG
RSTDBY 20 18 32K
ROP 10 18 500
****REFERENCE*******
EBREF 13 18 Value = { IF ( V(19,18) > 6, 5, 0 ) }
RREG 10 2 .33
CREF 2 18 1n
V3 13 10 
GB6 19 18 Value = { I(V3) }
****CURRENT COMPARATOR*******
EB3 21 18 Value = { IF ( V(15,18) > V(16,18), 5, 0 ) }
R7 15 18 1MEG
RDELAY 21 22 1K
CDELAY 22 18 150P
****ERROR AMPLIFIER**********
XAMP 2 14 3 18 1845AMP
****OFFSET LIMITER***********
R4 12 11 2MEG
R6 11 18 1MEG
EB2 16 18 Value = { IF ( V(11,18) > 1, 1, V(11,18) ) }
V4 3 9 1
D1 9 12 D2
.MODEL D2 D 
****OUTPUT DRIVER************
XDRIVE 19 18 5 4 1845OUT
****S-R LATCH****************
XLATCH 8 2 22 18 6 7 FFLOP
****OUTPUT AND GATE**********
EB8 5 18 Value = { IF ( V(2,18) > 2.5 & V(7,18) > 2.5 & V(8,18) > 2.5, 10, 0 ) }
.ENDS
********
*==========================================================
* UC3843B
* ON Semiconductor
* PWM Controller
*
* This model was developed for ON Semiconductor by:
* AEI Systems, LLC
* 5777 W. Century Blvd. Suite 876
* Los Angeles, California 90045
* Copyright 2002, all rights reserved.
*
* This model is subject to change without notice.
* Users may not directly or indirectly re-sell or 
* re-distribute this model. This model may not 
* be used, modified, or altered 
* without the consent of ON Semiconductor. 
*
* For more information regarding modeling services,
* model libraries and simulation products, please
* call AEi Systems at (310) 863-8034, or contact 
* AEi by email: info@aeng.com. http://www.AENG.com
*
* Revision: 1.0
*==========================================================
*
* PSpice translation by Christophe Basso, christophe.basso@onsemi.com
*
.SUBCKT UC3843B  3     14   15   1     18    4   20   2  
*               E/A   FDBK  IS  RT/CT  GND  OUT  VC  VREF
****OSCILLATOR*****
XTOF1 8 18 1 18 SWhyste params: RON=.01 ROFF=1MEG VT=2.05 VH=.8
GBDISCH 1 18 Value = { IF ( V(8,18) < 2.5 & V(13,18) > 2.5, 8.3M, 0 ) }
RPULL 8 2 100K
****UVLO***********
XTOF2 20 19 20 18 SWhyste params: RON=.01 ROFF=1MEG VT=8 VH=.4
RUVLO 19 18 1MEG
RSTDBY 20 18 16.8K
ROP 10 18 500
****REFERENCE*******
EBREF 13 18 Value = { IF ( V(19,18) > 6, 5, 0 ) }
RREG 10 2 .33
CREF 2 18 1n
V3 13 10 
GB6 19 18 Value = { I(V3) }
****CURRENT COMPARATOR*******
EB3 21 18 Value = { IF ( V(15,18) > V(16,18), 5, 0 ) }
R7 15 18 1MEG
RDELAY 21 22 1K
CDELAY 22 18 150P
****ERROR AMPLIFIER**********
XAMP 2 14 3 18 1845AMP
****OFFSET LIMITER***********
R4 12 11 2MEG
R6 11 18 1MEG
EB2 16 18 Value = { IF ( V(11,18) > 1, 1, V(11,18) ) }
V4 3 9 1
D1 9 12 D2
.MODEL D2 D 
****OUTPUT DRIVER************
XDRIVE 19 18 5 4 1845OUT
****S-R LATCH****************
XLATCH 8 2 22 18 6 7 FFLOP
****OUTPUT AND GATE**********
EB8 5 18 Value = { IF ( V(2,18) > 2.5 & V(7,18) > 2.5 & V(8,18) > 2.5, 10, 0 ) }
.ENDS
********
*==========================================================
* UC3844B
* ON Semiconductor
* PWM Controller
*
* This model was developed for ON Semiconductor by:
* AEI Systems, LLC
* 5777 W. Century Blvd. Suite 876
* Los Angeles, California 90045
* Copyright 2002, all rights reserved.
*
* This model is subject to change without notice.
* Users may not directly or indirectly re-sell or 
* re-distribute this model. This model may not 
* be used, modified, or altered 
* without the consent of ON Semiconductor. 
*
* For more information regarding modeling services,
* model libraries and simulation products, please
* call AEi Systems at (310) 863-8034, or contact 
* AEi by email: info@aeng.com. http://www.AENG.com
*
* Revision: 1.0
*==========================================================
*
* PSpice translation by Christophe Basso, christophe.basso@onsemi.com
*
.SUBCKT UC3844B  3     14   15   1     18    4   20   2  
*                E/A  FDBK  IS  RT/CT  GND  OUT  VC  VREF
****OSCILLATOR*****
XTOF1 8 18 1 18 SWhyste params: RON=.01 ROFF=1MEG VT=2.05 VH=.8
GBDISCH 1 18 Value = { IF ( V(8,18) < 2.5 & V(13,18) > 2.5, 8.3M, 0 ) }
RPULL 8 2 100K
****UVLO***********
XTOF2 20 19 20 18 SWhyste params: RON=.01 ROFF=1MEG VT=13 VH=3
RUVLO 19 18 1MEG
RSTDBY 20 18 32K
ROP 10 18 500
****REFERENCE*******
EBREF 13 18 Value = { IF ( V(19,18) > 6, 5, 0 ) }
RREG 10 2 .33
CREF 2 18 1N
V3 13 10 
GB6 19 18 Value = { I(V3) }
****CURRENT COMPARATOR*******
EB3 21 18 Value = { IF ( V(15,18) > V(16,18), 5, 0 ) }
R7 15 18 1MEG
RDELAY 21 22 1K
CDELAY 22 18 150P
****ERROR AMPLIFIER**********
XAMP 2 14 3 18 1845AMP
****OFFSET LIMITER***********
R4 12 11 2MEG
R6 11 18 1MEG
EB2 16 18 Value = { IF ( V(11,18) > 1, 1, V(11,18) ) }
V4 3 9 1
D1 9 12 D2
.MODEL D2 D 
****OUTPUT DRIVER************
XDRIVE 19 18 5 4 1845OUT
****S-R LATCH****************
XLATCH 8 2 22 18 6 7 FFLOP
****50% LIMIT TOGGLE*********
X9 8 150 18 18 50 51 FFLOP
EBTRY 150 18 Value = { IF ( v(2,18) > 2.5 & v(50,18) > 2.5, 5, 0 ) }
****OUTPUT AND GATE**********
EB8 5 18 Value = { IF ( V(2,18) > 2.5 & V(7,18) > 2.5 & V(8,18) > 2.5 &
+ V(50,18) > 2.5, 10, 0 ) }
.ENDS
********
*==========================================================
* UC3845B
* ON Semiconductor
* PWM Controller
*
* This model was developed for ON Semiconductor by:
* AEI Systems, LLC
* 5777 W. Century Blvd. Suite 876
* Los Angeles, California 90045
* Copyright 2002, all rights reserved.
*
* This model is subject to change without notice.
* Users may not directly or indirectly re-sell or 
* re-distribute this model. This model may not 
* be used, modified, or altered 
* without the consent of ON Semiconductor. 
*
* For more information regarding modeling services,
* model libraries and simulation products, please
* call AEi Systems at (310) 863-8034, or contact 
* AEi by email: info@aeng.com. http://www.AENG.com
*
* Revision: 1.0
*==========================================================
*
* PSpice translation by Christophe Basso, christophe.basso@onsemi.com
*
.SUBCKT UC3845B  3     14   15   1     18    4   20   2  
*               E/A   FDBK  IS  RT/CT  GND  OUT  VC  VREF
****OSCILLATOR*****
XTOF1 8 18 1 18 SWhyste params: RON=.01 ROFF=1MEG VT=2.05 VH=.8
GBDISCH 1 18 Value = { IF ( V(8,18) < 2.5 & V(13,18) > 2.5, 8.3M, 0 ) }
RPULL 8 2 100K
****UVLO***********
XTOF2 20 19 20 18 SWhyste params: RON=.01 ROFF=1MEG VT=8 VH=.4
RUVLO 19 18 1MEG
RSTDBY 20 18 16.8K
ROP 10 18 500
****REFERENCE*******
EBREF 13 18 Value = { IF ( V(19,18) > 6, 5, 0 ) }
RREG 10 2 .33
CREF 2 18 1N
V3 13 10 
GB6 19 18 Value = { I(V3) }
****CURRENT COMPARATOR*******
EB3 21 18 Value = { IF ( V(15,18) > V(16,18), 5, 0 ) }
R7 15 18 1MEG
RDELAY 21 22 1K
CDELAY 22 18 150P
****ERROR AMPLIFIER**********
XAMP 2 14 3 18 1845AMP
****OFFSET LIMITER***********
R4 12 11 2MEG
R6 11 18 1MEG
EB2 16 18 Value = { IF ( V(11,18) > 1, 1, V(11,18) ) }
V4 3 9 1
D1 9 12 D2
.MODEL D2 D 
****OUTPUT DRIVER************
XDRIVE 19 18 5 4 1845OUT
****S-R LATCH****************
XLATCH 8 2 22 18 6 7 FFLOP
****50% LIMIT TOGGLE*********
X9 8 150 18 18 50 51 FFLOP
EBTRY 150 18 Value = { IF ( v(2,18) > 2.5 & v(50,18) > 2.5, 5, 0 ) }
****OUTPUT AND GATE**********
EB8 5 18 Value = { IF ( V(2,18) > 2.5 & V(7,18) > 2.5 & V(8,18) > 2.5 &
+ V(50,18) > 2.5, 10, 0 ) }
.ENDS
*********
.SUBCKT 1845AMP  4     1    9   20
*                VREF  INV  OUT V-
.MODEL QPMOD PNP
.MODEL DCLAMP D (RS=10 BV=5 IBV=.01)
.MODEL DMOD D
R1 10 4 100K
R2 10 20 100K
R3 6 20 316MEG
C1 6 20 15.9P
E1 5 20 6 20 1
R4 1 20 8MEG
I2 4 9 .8M
D12 9 4 DMOD
R6 20 3 300
D11 9 12 DMOD
Q1 20 13 12 QPMOD
I3 13 20 68U
D14 3 13 DMOD
D15 20 6 DCLAMP
L1 2 3 10U
C2 3 20 200P
R9 5 2 5
C5 2 20 .02U
G1 20 6 10 1 100U
.ENDS
*********
.SUBCKT 1845OUT  4  7  3  12
*                +V -V IN OUT
.MODEL QMOD NPN RC=1.5 RE=.5 RB=100 IKF=0.5 CJC=0.4P
.MODEL QMOD2 NPN TF=400P TR=400P
.MODEL QIN NPN BF=100 BR=2 IS=1E-16 VAF=50 
+ CJE=1.5P CJC=.15P TR=1N TF=4N
.MODEL DMOD D RS=1 IS=0.4U
I3 4 8 100U
D3 8 4 DMOD
D4 12 8 DMOD
Q3 8 1 9 QIN
Q4 12 9 7 QMOD
Q5 4 8 6 QMOD
I4 7 1 .9M
R1 3 2 10K
Q8 1 2 7 QIN
Q2 4 6 12 QMOD2
.ENDS
******************
.SUBCKT FFLOP 1  2 11 12 5  6
*            CLK D R  S  QB Q
X1 7 4 2 8 NAND3_0 
X2 8 3 10 9 NAND3_0 
X3 1 8 10 7 NAND3_1 
X4 4 9 1 10 NAND3_0 
X5 4 7 6 5 NAND3_1 
X6 5 10 3 6 NAND3_0 
X7 11 4 INV 
X8 12 3 INV 
.ENDS FFLOP
*
.SUBCKT NAND3_0 1 2 3 4
E1 5 0 VALUE = { IF ( (V(1)>800mV) & (V(2)>800mV) & (V(3)>800mV), 0, 5 ) }
R1 5 4 400
C1 4 0 20P IC=0
.ENDS NAND3_0
*
.SUBCKT NAND3_1 1 2 3 4
E1 5 0 VALUE = { IF ( (V(1)>800mV) & (V(2)>800mV) & (V(3)>800mV), 0, 5 ) }
R1 5 4 400
C1 4 0 20P IC=5
.ENDS NAND3_1
*
.SUBCKT INV 1 2
E1 3 0 VALUE = { IF ( V(1)>800mV, 0, 5 ) }
R1 3 2 100
C1 2 0 10P IC=5
.ENDS INV
*
.SUBCKT SWhyste NodeMinus NodePlus Plus Minus PARAMS: RON=1 ROFF=1MEG VT=5 VH=2
S5 NodePlus NodeMinus 8 0 smoothSW
EBcrtl 8 0 Value = { IF ( V(plus)-V(minus) > V(ref), 1, 0 ) }
EBref ref1 0 Value = { IF ( V(8) > 0.5, {VT-VH}, {VT+VH} ) }
Rdel ref1 ref 100
Cdel ref 0 100p  IC={VT+VH}
Rconv1 8 0 10Meg
Rconv2 plus 0 10Meg
Rconv3 minus 0 10Meg
.model smoothSW VSWITCH (RON={RON} ROFF={ROFF} VON=1 VOFF=0)
.ends SWhyste
*
****** Application models *****
.SUBCKT MOC8101 1 2 3   5
* ISOLATOR      A C COL EMITTER
RB 4 0 100Meg
VM 1 6
D1 6 2 LED
H1 7 0 VM .0055
R1 7 8 1K
C1 8 0 3.35nF
G1 3 4 8 0 1
Q1 3 4 5 MPSA06
.MODEL LED D(N=1.7 RS=.7 CJO=23.9P IS=85.3p BV=6 IBV=10U 
+ VJ=0.75 M=0.333 TT=4.32U)
.MODEL MPSA06 NPN (IS=15.2F NF=1 BF=589 VAF=98.6 IKF=90M ISE=3.34P NE=2 
+ BR=4 NR=1 VAR=16 IKR=0.135 RE=0.343 RB=1.37 RC=0.137 XTB=1.5
+ CJE=9.67P VJE=1.1 MJE=0.5 CJC=7.34P VJC=0.3 MJC=0.3 TF=10.29n TR=276N)
.ENDS MOC8101
*$
**** MULTI-WINDING TRANSFORMER ****
.SUBCKT XFMR2 1 2 3 4 10 11 PARAMS: RATIO1=1 RATIO2=1
RP 1 2 1MEG
E1 5 4 VALUE = { V(1,2)*RATIO1 }
G1 1 2 VALUE = { I(VM1)*RATIO1 }
RS1 6 3 1U
VM1 5 6
E2 20 11 VALUE = { V(2,1)*RATIO2 }
G2 2 1 VALUE = { I(VM2)*RATIO2 }
RS2 21 10 1U
VM2 20 21 
.ENDS XFMR2
*$
**** SINGLE WINDING TRANSFORMER ****
.SUBCKT XFMR1 1 2 3 4 PARAMS: RATIO=1
RP 1 2 1MEG
E 5 4 VALUE = { V(1,2)*RATIO }
G 1 2 VALUE = { I(VM)*RATIO }
RS 6 3 1U
VM 5 6 
.ENDS XFMR1
*$
*********
.model mbr140p d
+ is= 4.41547e-06
+ rs= 0.103922
+ n= 1.03751
+ tt= 1e-12
+ cjo= 1.598e-10
+ vj= 0.4934
+ m= 0.4258
+ eg= 0.6
+ xti= 3.29768
+ fc= 0.5
+ bv= 48
+ ibv= 0.01
+ kf= 0
+ af= 1
*******
*$
.MODEL 1n962A d
+RS=5.2600 BV=10.940     
+CJO=710.46P TT=20N N=2 
+IS=1E-9 IBV=11.364M
******
*$
.MODEL dn752a d
+RS=6.1685 BV=5.4766     
+M=.33 VJ=.75 IS=1E-11 
+CJO=376.59P TT=50N 
+N=1.27 IBV=10MA
******
*$
.SUBCKT TL431 7 6 11
V1 1 6 2.495
R1 6 2 15.6
C1 2 6 .5U
R2 2 3 100
C2 3 4 .08U
R3 4 6 10
G2 6 8 3 6 1.73
D1 5 8 DC
D2 7 8 DC
V4 5 6 2
G1 6 2 1 11 0.11
.MODEL DC D 
+IS=13.5N RS=25M N=1.59 
+ CJO=45P VJ=.75 M=.302 
+ TT=50.4N BV=34V IBV=1MA
.ENDS
*$
********
.subckt mtd1n60e 10 20 30 
*
* 10 = Drain 20 = Gate 30 = Source
*
******************************************************************************
*
*------------------------ EXTERNAL PARASITICS --------------------------------
* PACKAGE INDUCTANCE
*
LDRAIN  10  11  4.5e-09
LGATE   20  21  7.5e-09
LSOURCE 30  31  7.5e-09
*
* RESISTANCES
*
RDRAIN1    4  11 RDRAIN 6.853
RDRAIN2    4   5 RDRAIN 0.088
RSOURCE   31   6 RSOURCE 0.1  
RDBODY     8  30 RDBODY  0.061
*
RGATE      21   2 5
*
*--------------------------------------------------------------------------
*
*--------------- CAPACITANCES AND BODY DIODE ------------------------------
*
DBODY       8  11 DBODY
DGD         3  11 DGD
CGDMAX      2   3 3e-10
RGDMAX      2   3 1e+08
CGS         2   6 2.2e-10 
*
*--------------------------------------------------------------------------
*
*----------------------- CORE MOSFET --------------------------------------
*
M1       5  2  6  6  MAIN
*
*--------------------------------------------------------------------------
*
.MODEL RDRAIN RES  (
+TC1    = 0.008186
+TC2    = 1.74896e-05)
*
.MODEL RSOURCE RES  (
+TC1    = -0.001057
+TC2    = 6.14713e-05)
*
.MODEL RDBODY RES  (
+TC1    = 0.002026
+TC2    = 1.49534e-05)
*
*
.MODEL MAIN NMOS  ( 
+LEVEL   = 3
+VTO     = 3.89
+KP      = 1.75
+GAMMA   = 3
+PHI     = 0.6
+LAMBDA  = 0.0001
+RD      = 0
+RS      = 0
+CBD     = 0
+CBS     = 0
+IS      = 1e-14
+PB      = 0.8
+CGSO    = 0
+CGDO    = 0
+CGBO    = 0
+RSH     = 0
+CJ      = 0
+MJ      = 0.5
+CJSW    = 0
+MJSW    = 0.33
+JS      = 1e-14
+TOX     = 1e-07
+NSUB    = 1e+15
+NSS     = 0
+NFS     = 1.1e+12
+TPG     = 1
+XJ      = 0
+LD      = 0
+UO      = 600
+UCRIT   = 1000
+UEXP    = 0
+UTRA    = 0
+VMAX    = 0
+NEFF    = 1
+KF      = 0
+AF      = 1
+FC      = 0.5
+DELTA   = 0
+THETA   = 0
+ETA     = 0
+KAPPA   = 0.2)
*
*--------------------------------------------------------------------------
*
.MODEL DGD D  ( 
+IS      = 1e-15
+RS      = 0
+N       = 1000
+TT      = 0
+CJO     = 1.403e-10
+VJ      = 0.1366
+M       = 0.6185
+EG      = 1.11
+XTI     = 3
+KF      = 0
+AF      = 1
+FC      = 0.5
+BV      = 10000
+IBV     = 0.001)
*
*--------------------------------------------------------------------------
*
.MODEL DBODY D  ( 
+IS      = 1.891e-11
+RS      = 0
+N       = 1.196
+TT      = 5e-07
+CJO     = 1.364e-10
+VJ      = 0.9158
+M       = 0.6082
+EG      = 1.11
+XTI     = 4.5
+KF      = 0
+AF      = 1
+FC      = 0.5
+BV      = 658.9
+IBV     = 0.00025)
.ENDS
*$
******
